US07456286B2
1-Benzyl-1H-pyrrolo[3,2-b]pyridine
A solution of 1H-pyrrolo[3,2-b]pyridine (1.30 g, 9.42 mmol) in DMF (15 ml) was treated with sodium hydride (60% in mineral oil, 434 mg, 11.3 mmol) at r.t. until effervescence ceased. After cooling to 0° C. benzyl bromide (1.68 ml, 14.1 mmol) was added and the reaction warmed at 60° C. overnight. The reaction mixture was partitioned between water and EtOAc (50 ml each) and extracted with EtOAc (50 ml). The combined organics were washed with brine (20 ml), dried (MgSO4), filtered and concentrated in vacuo to give the title compound as a brown oil (1.20 g, 58%). δH (CDCl3) 8.39 (1H, d, J 4.4 Hz), 7.48 (1H, d, J 8.2 Hz), 7.30 (1H, d, J 3.1 Hz), 7.26-7.18 (3H, m), 7.04-6.69 (3H, m), 6.67 (1H, d, J 4.4 Hz), 5.11 (2H, s). LCMS (ES+) RT 1.56 ml 209 (M+H+).

reactant | 1H-pyrrolo[3,2-b]pyridine | 9.42 mmol, 1.30 g | N1C=CC2=NC=CC=C21 | C7H6N2
reactant | sodium hydride | 11.3 mmol, 434 mg | [H-].[Na+]
reactant | benzyl bromide | 14.1 mmol, 1.68 ml | C(C1=CC=CC=C1)Br | C7H7Br
solvent | DMF | 15 ml | CN(C)C=O | C3H7NO
product | 1-Benzyl-1H-pyrrolo[3,2-b]pyridine | 1.20 g, 58% | C(C1=CC=CC=C1)N1C=CC2=NC=CC=C21 | C14H12N2
